US07902367B2
Step 68c) Methyl 3-[3-[N-[(4′-chlorobiphenyl-4-yl)methyl]carbamoyl]piperidin-1-yl]benzoate
Using 1-[3-(methoxycarbonyl)phenyl]nipecotic acid (108 mg, 0.410 mmol) and (4′-chlorobiphenyl-4-yl)methylamine hydrochloride (95.0 mg, 0.374 mmol), the same procedure was followed as in Step 3a of Example 3 to give 120 mg (69%) of the desired compound as colorless crystals.

reactant | 1-[3-(methoxycarbonyl)phenyl]nipecotic acid | 0.410 mmol, 108 mg | COC(=O)C=1C=C(C=CC1)N1CC(C(=O)O)CCC1 | C14H17NO4
reactant | (4′-chlorobiphenyl-4-yl)methylamine hydrochloride | 0.374 mmol, 95.0 mg | Cl.ClC1=CC=C(C=C1)C1=CC=C(C=C1)CN
product | Methyl 3-[3-[N-[(4′-chlorobiphenyl-4-yl)methyl]carbamoyl]piperidin-1-yl]benzoate | 120 mg, 69% | ClC1=CC=C(C=C1)C1=CC=C(C=C1)CNC(=O)C1CN(CCC1)C=1C=C(C(=O)OC)C=CC1 | C27H27ClN2O3
